US07371765B2
A solution of 4-chloro-6-cyano-7-hydroxyquinoline (852 mg, 4.2 mmol), (prepared as described for the starting material in Example 1), and 5-amino-2,3-dimethylindole (800 mg, 5 mmol) in isopropanol (25 ml) containing 6.2N HCl in isopropanol was heated at 80° C. for 2 hours. After cooling, the solid was collected by filtration, washed with isopropanol followed by ether and dried under vacuum. The solid was partitioned between acetonitrile/ethyl acetate (1/1) and water. The pH of the aqueous layer was adjusted to 7–8 with saturated aqueous sodium hydrogen carbonate followed by 1N citric acid. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated to give 6-cyano-4-(2,3-dimethylindol-5-ylamino)-7-hydroxyquinoline (650 mg, 47%).

reactant | 4-chloro-6-cyano-7-hydroxyquinoline | 4.2 mmol, 852 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)O | C10H5ClN2O
reactant | 5-amino-2,3-dimethylindole | 5 mmol, 800 mg | NC=1C=C2C(=C(NC2=CC1)C)C | C10H12N2
reactant | HCl | 6.2N | Cl | ClH
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 6-cyano-4-(2,3-dimethylindol-5-ylamino)-7-hydroxyquinoline | 650 mg, 47% | C(#N)C=1C=C2C(=CC=NC2=CC1O)NC=1C=C2C(=C(NC2=CC1)C)C | C20H16N4O
